US04269836
(b) 4-Phenyl-4H-pyrazolo[4',3':5,6]pyrido[3,4-e][1,2,4]-triazolo[1,5-a]pyrimidin-5(8H)-one
0.01 mol. of 1-furfuryl-4-phenyl-4H-pyrazolo[4',3':5,6]pyrido[3,4-e][1,2,4]triazolo[1,5-a]pyrimidin-5(8H)-one is heated in 50 ml. of diethyleneglycol dimethylether containing 0.01 mol. of selenium dioxide at reflux temperature with stirring for two hours. The mixture is filtered hot and evaporated to dryness. 4-Phenyl-4H-pyrazolo[4',3':5,6]pyrido[3,4-e][1,2,4]triazolo[1,5-a]-pyrimidin-5(8H)-one remains.

reactant | 1-furfuryl-4-phenyl-4H-pyrazolo[4',3':5,6]pyrido[3,4-e][1,2,4]triazolo[1,5-a]pyrimidin-5(8H)-one | C(C1=CC=CO1)N1CN=C2N1C1=C(C(N2C2=CC=CC=C2)=O)C=NC2=C1C=NN2 | C20H15N7O2
reactant | diethyleneglycol dimethylether | 0.01 mol | COCCOCCOC | C6H14O3
reactant | selenium dioxide | [Se](=O)=O | O2Se
product | 4-Phenyl-4H-pyrazolo[4',3':5,6]pyrido[3,4-e][1,2,4]-triazolo[1,5-a]pyrimidin-5(8H)-one | C1(=CC=CC=C1)N1C=2N(C3=C(C1=O)C=NC1=C3C=NN1)N=CN2 | C15H9N7O
